US04812566
Also known as such process is a process involving the reaction of azacycloheptane-2-one with excess dodecyl bromide in a mixed solvent of an aromatic hydrocarbon and water in the presence of a phase-transfer catalyst (Japanese Unexamined Patent Publication No. 210,066/1983). This process, however, requires large amounts of water and sodium hydroxide, more specifically water in an amount corresponding to about 15 times the weight of azacycloheptane-2-one, and 22 moles of sodium hydroxide serving as a receptor for hydrogen halide per mole of the dodecyl halide. Consequently the process has the disadvantage of being significantly low in the productive efficiency with respect to the volume of the reaction vessel. Further, the process proceeds at a low reaction rate and requires a reaction time of at least 100 hours to prepare 1-dodecylazacycloheptane-2-one in a yield of 90% or more, hence extremely inefficient. Experimentally we practiced the process disclosed in Japanese Unexamined Patent Publication No. 210,066/1983 and found that the process produces a large amount of dodecyl ether as a by-product (see Comparison Example 1 to be described later) which is similar in boiling point to 1-dodecylazacycloheptane-2-one. Accordingly said conventional process is disadvantageous in that it is difficult to obtain high-purity 1-dodecylazacycloheptane2-one by effecting a simple distillation operation for purification.

reactant | azacycloheptane-2-one | N1C(CCCCC1)=O | C6H11NO
reactant | dodecyl bromide | C(CCCCCCCCCCC)Br | C12H25Br
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 22 moles | [OH-].[Na+]
reactant | 1-dodecylazacycloheptane-2-one | C(CCCCCCCCCCC)N1C(CCCCC1)=O | C18H35NO
solvent | water | O | H2O
product | dodecyl ether | yield of 90% or more | C(CCCCCCCCCCC)OCCCCCCCCCCCC | C24H50O
